US04230712
B. 17-Cyano-8β-ethyl-3-methoxymorphinan-6-one.
To a rapidly stirred solution of 8β-ethyl-3-methoxy-17-methylmorphinan-6-one (prepared in Part A) was added cyanogen bromide as in Example 1B. The product, mp. 141°-145° C., was obtained in 73% yield.

reactant | 8β-ethyl-3-methoxy-17-methylmorphinan-6-one | C(C)[C@H]1CC(C[C@]23C=4C=C(C=CC4C[C@H]([C@H]12)N(CC3)C)OC)=O | C20H27NO2
reactant | cyanogen bromide | N#CBr | CBrN
product | 17-Cyano-8β-ethyl-3-methoxymorphinan-6-one | 73% yield | C(#N)N1[C@H]2[C@@H]3[C@H](CC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)CC | C20H24N2O2
